US07723369B2
5-{4-[2-(4′-Bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-2-(2-trimethylsilanyl-ethoxymethyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide (240 mg, 0.3 mmol) was treated as described in general procedure R using excess piperazin-2-one (301 mg, 3 mmol) to give 4-[4′-(4-(2,4-dichloro-phenyl)-1-{4-[1,1,4-trioxo-5-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-2-yl]-phenyl}-1H-imidazol-2-ylmethyl)-biphenyl-4-yl]-piperazin-2-one.

reactant | 5-{4-[2-(4′-Bromo-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-imidazol-1-yl]-phenyl}-2-(2-trimethylsilanyl-ethoxymethyl)-1,2,5-thiadiazolidine-3-one-1,1-dioxide | 0.3 mmol, 240 mg | BrC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1=CC=C(C=C1)N1CC(N(S1(=O)=O)COCC[Si](C)(C)C)=O | C36H35BrCl2N4O4SSi
reactant | piperazin-2-one | 3 mmol, 301 mg | N1C(CNCC1)=O | C4H8N2O
product | 4-[4′-(4-(2,4-dichloro-phenyl)-1-{4-[1,1,4-trioxo-5-(2-trimethylsilanyl-ethoxymethyl)-[1,2,5]thiadiazolidin-2-yl]-phenyl}-1H-imidazol-2-ylmethyl)-biphenyl-4-yl]-piperazin-2-one | ClC1=C(C=CC(=C1)Cl)C=1N=C(N(C1)C1=CC=C(C=C1)N1S(N(C(C1)=O)COCC[Si](C)(C)C)(=O)=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)N1CC(NCC1)=O | C40H42Cl2N6O5SSi
